US07125990B2
2-Chloro-N-(2-chloro-4,6-dimethyl-phenyl)-acetamide, Scheme 3: (K)
To a solution of 2-chloro-4,6-dimethylaniline (0.300 g, 0.00193 mol) in dichloroethane (6 mL) was added chloroacetic anhydride (0.460 g, 0.0027 mol). The reaction was allowed to stir at room temperature for 1 h and was then quenched with saturated aqueous NaHCO3 and allowed to stir for another 15 min. The reaction mixture was extracted with ethyl acetate (2×15 mL), and the combined organic portions were washed sequentially with saturated aqueous NaHCO3 and brine. After drying over anhydrous Na2SO4, the organic portion was concentrated under reduced pressure to give 0.40 g (0.0017 mol, 90%) of white solid. 1H NMR (CDCl3, 300 MHz) δ 7.94 (br s, 1H), 7.12 (s, 1H), 6.98 (s, 1H), 4.25 (s, 2H), 2.3 (s, 3H), 2.24 (s, 3H). LC/MS: tR=1.22 min., (MH+)=232.02.

reactant | 2-chloro-4,6-dimethylaniline | 0.00193 mol, 0.300 g | ClC1=C(N)C(=CC(=C1)C)C | C8H10ClN
reactant | chloroacetic anhydride | 0.0027 mol, 0.460 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | dichloroethane | 6 mL | ClC(C)Cl | C2H4Cl2
product | 2-Chloro-N-(2-chloro-4,6-dimethyl-phenyl)-acetamide | 0.0017 mol, 0.40 g, 90% | ClCC(=O)NC1=C(C=C(C=C1C)C)Cl | C10H11Cl2NO
